US06664111B2
Synthesis of 4-Hydroxy-7-phenyl-1,10-phenanthroline-3-carboxylic acid
Ethyl 4-hydroxy-7-phenyl-1,10-phenanthroline-3-carboxylate (5.37 g) is boiled with 10% aqueous NaOH (32 mL) for 2 hours, acidified with 10% HCl to yield a precipitate that is collected, washed with water and dried to give the desired product.

reactant | Ethyl 4-hydroxy-7-phenyl-1,10-phenanthroline-3-carboxylate | 5.37 g | OC1=C(C=NC2=C3N=CC=C(C3=CC=C12)C1=CC=CC=C1)C(=O)OCC | C21H16N2O3
reactant | NaOH | 32 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
product | 4-Hydroxy-7-phenyl-1,10-phenanthroline-3-carboxylic acid | OC1=C(C=NC2=C3N=CC=C(C3=CC=C12)C1=CC=CC=C1)C(=O)O | C19H12N2O3
